US07951794B2
A solution of 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one (296 mg, 0.81 mmol) in 2-propanol (2.5 mL) and 3 N aq. NaOH (1 mL) is treated with epichlorohydrine (150 mg, 1.63 mmol) and the mixture is stirred at it for 24 h, then diluted with water and extracted with EA. The solvent of the organic extract is evaporated and the residue is purified by CC on silica gel eluting with hepaten:EA 4:1 to give 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one (160 mg) as a pale yellow oil; LC-MS: tR=1.16 min, [M+1]+=421.22, 1H NMR (CDCl3): δ 7.58 (s, 1H), 7.45-7.30 (m, 5H), 6.88 (m, 2H), 3.99 (dd, J=2.9, 11.1 Hz, 1H), 3.72 (dd, J=5.8, 11.1 Hz, 1H), 3.38-3.31 (m, 1H), 3.19-3.11 (m, 2H), 2.98-2.85 (m, 5H), 2.72-2.67 (m, 1H), 2.26 (s, 6H), 1.30 (t, J=7.6 Hz, 3H).

reactant | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one | 0.81 mmol, 296 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CC)C | C23H24O2S
reactant | epichlorohydrine | 1.63 mmol, 150 mg | C(Cl)C1CO1 | C3H5ClO
solvent | 2-propanol | 2.5 mL | CC(C)O | C3H8O
solvent | NaOH | 3 N, 1 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one | 160 mg | CC=1C=C(C=C(C1OCC1OC1)C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CC | C26H28O3S
